US07691882B2
2-(5-Benzyloxy-pyridin-2-yl)-N-hydroxy-acetamidine
To an ethanol (30 mL) solution of (5-benzyloxy-pyridin-2-yl)-acetonitrile (1.77 g, 7.89 mmol) described in Manufacturing Example 127-1-4 were added hydroxylammonium chloride (848 mg, 11.8 mmol) and potassium carbonate (2.18 g, 15.8 mmol), which was stirred for 11 hours and 20 minutes at 70° C. The mixture was then stirred for another 5 hours and 45 minutes under reflux. Water was added to the reaction mixture at room temperature, which was extracted with ethyl acetate. The organic layer was separated, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate:methanol=10:1) to obtain the title compound (550 mg, 27%).

reactant | ethanol | 30 mL | C(C)O | C2H6O
reactant | (5-benzyloxy-pyridin-2-yl)-acetonitrile | 7.89 mmol, 1.77 g | C(C1=CC=CC=C1)OC=1C=CC(=NC1)CC#N | C14H12N2O
reactant | hydroxylammonium chloride | 11.8 mmol, 848 mg | [Cl-].O[NH3+]
reactant | potassium carbonate | 15.8 mmol, 2.18 g | C([O-])([O-])=O.[K+].[K+]
solvent | Water | O | H2O
product | 2-(5-Benzyloxy-pyridin-2-yl)-N-hydroxy-acetamidine | 550 mg, 27% | C(C1=CC=CC=C1)OC=1C=CC(=NC1)CC(=N)NO | C14H15N3O2
